* post-layout offset bracket with the kpex 2.5D netlist (trusted extraction)
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerMOSlv.lib mos_tt
.include sa_comp_k.spice
.param vdd=1.5
XDUT VDD VSS clk inn inp outn outp sa_comp
VDDs VDD 0 {vdd}
VSSs VSS 0 0
Vclk clk 0 pulse(0 {vdd} 2n 0.1n 0.1n 8n 20n)
Vip inp 0 0.9
Vin inn 0 0.9
.control
let dvs = vector(9)
compose dvs values -50m -20m -10m -5m 0 5m 10m 20m 50m
let i = 0
echo "# dv sep(outp-outn)" > off_k.txt
dowhile i < 9
  let dv = dvs[i]
  let vp = 0.9 + dv/2
  let vn = 0.9 - dv/2
  alter Vip dc = $&vp
  alter Vin dc = $&vn
  tran 20p 10n
  meas tran so find v(outp) at=9.5n
  meas tran sn find v(outn) at=9.5n
  let sep = so - sn
  echo "$&dv $&sep" >> off_k.txt
  destroy all
  let i = i + 1
end
quit
.endc
.end
